US07745641B2
4-Formyl-3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide (3.12 g, 9.53 mmol) was dissolved in methanol (30 mL), and the solution was added with trimethyl orthoformate (2.09 mL, 19.1 mmol) and p-toluenesulfonic acid monohydrate (16.4 mg, 0.0952 mmol), followed by stirring at room temperature for 1 hour. The reaction mixture was added with saturated aqueous sodium hydrogencarbonate solution and water, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 3-methoxymethoxy-4-dimethoxymethyl-N-(1-methyl-1-phenylethyl)benzamide (3.61 g, yield 100%).

reactant | 4-Formyl-3-methoxymethoxy-N-(1-methyl-1-phenylethyl)benzamide | 9.53 mmol, 3.12 g | C(=O)C1=C(C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=C1)OCOC | C19H21NO4
reactant | trimethyl orthoformate | 19.1 mmol, 2.09 mL | C(OC)(OC)OC | C4H10O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | methanol | 30 mL | CO | CH4O
catalyst | p-toluenesulfonic acid monohydrate | 0.0952 mmol, 16.4 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 3-methoxymethoxy-4-dimethoxymethyl-N-(1-methyl-1-phenylethyl)benzamide | 3.61 g, yield 100% | COCOC=1C=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC1C(OC)OC | C21H27NO5
